US08492378B2
3-chloro-N-methyl-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzamide
In the same manner as in Example 117 and using 3-chloro-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoic acid instead of 3-[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]propionic acid and using 2M methylamine-tetrahydrofuran solution instead of N,O-dimethylhydroxyamine hydrochloride, the title compound (yield 21%) was obtained as colorless crystals.

reactant | 3-chloro-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoic acid | ClC=1C=C(C(=O)O)C=CC1C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C18H11ClN2O4
reactant | methylamine tetrahydrofuran | 2M | CN.O1CCCC1
product | 3-chloro-N-methyl-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzamide | yield 21% | ClC=1C=C(C(=O)NC)C=CC1C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C19H14ClN3O3
